US09102624B2
1-[1-(4-Cyano-phenyl)-ethyl]-5-(3-difluoromethyl-phenyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid methylamide
To a solution of 5-bromo-1-[1-(4-cyano-phenyl)-ethyl]-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid methylamide (preparation 9, 100 mg, 0.267 mmol), 3-difluoromethyl-phenylboronic acid (67 mg, 0.390 mmol), palladium (0) tetrakis(triphenylphosphine) (25 mg, 0.022 mmol) in acetonitrile (2 mL) is added 2 M aqueous K2CO3 solution (0.30 mL, 0.60 mmol). After stirring for 18 h at 75° C., the reaction mixture is purified by preparative reversed-phase HPLC (XBridge, gradient of methanol in water, 0.1% NH4OH, 60° C.). Yield: 80 mg (71% of theory); ESI mass spectrum: [M+H]+=422; Retention time HPLC: 0.99 min (Z018_S04).

reactant | 5-bromo-1-[1-(4-cyano-phenyl)-ethyl]-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid methylamide | 0.267 mmol, 100 mg | CNC(=O)C1=CN(C(=C(C1=O)Br)C)C(C)C1=CC=C(C=C1)C#N | C17H16BrN3O2
reactant | 3-difluoromethyl-phenylboronic acid | 0.390 mmol, 67 mg | FC(C=1C=C(C=CC1)B(O)O)F | C7H7BF2O2
reactant | K2CO3 | 0.60 mmol, 2 M, 0.30 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | palladium (0) tetrakis(triphenylphosphine) | 0.022 mmol, 25 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 1-[1-(4-Cyano-phenyl)-ethyl]-5-(3-difluoromethyl-phenyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid methylamide | CNC(=O)C1=CN(C(=C(C1=O)C1=CC(=CC=C1)C(F)F)C)C(C)C1=CC=C(C=C1)C#N | C24H21F2N3O2
